US05643932
2 g of potassium carbonate was added to a solution of 1.5 g of 2-(3,4-diethoxyphenyl)-4-(2,4-dihydroxyphenyl)thiazole in 40 ml of acetone. Thereto was added 40 g of dry ice under cooling at -78° C. The mixture was sealed in a tube and stirred at 150° C. for 18 hours. The solvent was distilled off. The residue was made weakly acidic with 100 ml of ethyl acetate and 10% hydrochloric acid, and extraction and phase separation was conducted. The organic layer was washed with 30 ml of a saturated aqueous sodium chloride solution and dried. The solvent was distilled off. The residue was mixed with 40 ml of dichloromethane. The insoluble was collected by filtration, washed with a small amount of dichloromethane, dried and recrystallized from ethyl acetate to obtain 241 mg of 2-(3,4-diethoxyphenyl)-4-(3-carboxy-4,6-dihydroxyphenyl)thiazole.

reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3,4-diethoxyphenyl)-4-(2,4-dihydroxyphenyl)thiazole | 1.5 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=C(C=C(C=C1)O)O | C19H19NO4S
reactant | dry ice | 40 g | C(=O)=O | CO2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-(3,4-diethoxyphenyl)-4-(3-carboxy-4,6-dihydroxyphenyl)thiazole | 241 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1O)O)C(=O)O | C20H19NO6S
